US04728665
2-(4-Methoxymethylbenzoylamino)-2-(ethoxy)-acetonitrile
A solution of 2-(4-methoxymethylbenzoylamino)-acetonitrile (5.0 g) in dry ethyl acetate (40 ml) was treated with a couple of drops of bromine and stirred at 30° C. until initiation of the reaction occurred. The bromine was then added dropwise keeping the temperature at 25°-30° C. After completion of the addition the mixture was filtered through celite, and the filtrate treated with ethanol (5 ml), with stirring, followed by triethylamine (5.0 g), at room temperature. After completion of the addition the mixture was stirred for 5 minutes, filtered through celite, and washed with water, dried over magnesium sulphate and evaporated at less than 30° C., giving a brown oil, (5.0 g). This was purified by preparative HPLC to yield the product as white needles (1.6 g), mpt 99°-100° C.

reactant | 2-(4-methoxymethylbenzoylamino)-acetonitrile | 5.0 g | COCC1=CC=C(C(=O)NCC#N)C=C1 | C11H12N2O2
reactant | bromine | BrBr | Br2
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | bromine | a couple of drops | BrBr | Br2
product | 2-(4-Methoxymethylbenzoylamino)-2-(ethoxy)-acetonitrile | 1.6 g | COCC1=CC=C(C(=O)NC(C#N)OCC)C=C1 | C13H16N2O3
